US05093370
N,N,N-Trimethyl-8-phenyloctylammonium iodide
To a solution of 193 mg of N,N-dimethyl-8-phenyloctylamine in 1.5 ml of absolute methanol, were added dropwise 258 μl of methyl iodide, and the mixture was stirred at a room temperature for 6.5 hours. After adding 3 ml of ethyl acetate, the mixture was stirred with ice-cooling for 30 minutes. Resulting crystal was filtered, washed with ethyl acetate, and dried under a reduced pressure to obtain 238 mg of the title compound as a colorless crystal.

reactant | N,N-dimethyl-8-phenyloctylamine | 193 mg | CN(C)CCCCCCCCC1=CC=CC=C1 | C16H27N
reactant | methyl iodide | 258 μl | CI | CH3I
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 ml | CO | CH4O
product | N,N,N-Trimethyl-8-phenyloctylammonium iodide | 238 mg | [I-].C[N+](C)(C)CCCCCCCCC1=CC=CC=C1 | InChI=1S/C17H30N.HI/c1-18(2,3)16-12-7-5-4-6-9-13-17-14-10-8-11-15-17;/h8,10-11,14-15H,4-7,9,12-13,16H2,1-3H3;1H/q+1;/p-1
